US04493843
A solution of 2-(n-dodecyl)indole-6-carboxylic acid (14.0 g) in ethanol (70 ml) containing a solution of hydrogen chloride gas in ethanol (100 ml, of strength 35% w/v) was refluxed for 5 hours. The solid, which crystallised on cooling, was collected, washed with light petroleum ether (b.p. 40°-60° C.) and was recrystallised from ethanol to give ethyl 2-(n-dodecyl)-indole-6-carboxylate (9.1 g), in the form of a pale pink solid, m.p. 83°-86° C.

reactant | 2-(n-dodecyl)indole-6-carboxylic acid | 14.0 g | C(CCCCCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)O | C21H31NO2
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | 70 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | ethyl 2-(n-dodecyl)-indole-6-carboxylate | 9.1 g | C(CCCCCCCCCCC)C=1NC2=CC(=CC=C2C1)C(=O)OCC | C23H35NO2
